US05614532
7-Chloro-4-cyanomethoxy-3-phenyl-2(1H)-quinolone
To a solution of 7-chloro-4-hydroxy-3-phenyl-2(1H)-quinolone (0.50 g, 1.84 mmol) in dimethyl formamide (50 ml) under nitrogen at room temperature, was added sodium hydrogen carbonate (1.50 g) followed by bromoacetonitrile (1.9 ml). The reaction mixture was stirred at room temperature for 16 h, then poured into water and extracted with ethyl acetate (3×50 ml). The combined organic layers were washed with water (2×50 ml), dried (MgSO4), filtered and the solvent was removed in vacuo to leave an oily residue. Trituration with diethyl ether, followed by recrystallisation from an ethyl acetate, petrol (60-80) mixture, gave the title compound as a white solid (0.15 g). Mp 209°-211° C. Found: C, 65.60; H, 3.74; N, 8.75; C17H11N2O2Cl requires C, 65.71; H, 3.57; N, 9.02%. δ (360 MHz, DMSO-d6) 4.59 (2H, s, OCH2CN), 7.31 (1H, dd, J=8.63 Hz, J=2.10 Hz, 6-H), 7.40-7.49 (6H, m, Ph+8-H), 7.83 (1H, d, J=88.63 Hz, 5-H), 12.10 (1H, bs, NH). m/z (CI+), 311, (M+1).

reactant | 7-chloro-4-hydroxy-3-phenyl-2(1H)-quinolone | 1.84 mmol, 0.50 g | ClC1=CC=C2C(=C(C(NC2=C1)=O)C1=CC=CC=C1)O | C15H10ClNO2
reactant | sodium hydrogen carbonate | 1.50 g | C(O)([O-])=O.[Na+]
reactant | bromoacetonitrile | 1.9 ml | BrCC#N | C2H2BrN
reactant | water | O | H2O
solvent | dimethyl formamide | 50 ml | CN(C=O)C | C3H7NO
product | 7-Chloro-4-cyanomethoxy-3-phenyl-2(1H)-quinolone | 0.15 g | ClC1=CC=C2C(=C(C(NC2=C1)=O)C1=CC=CC=C1)OCC#N | C17H11ClN2O2
